* source PR1
Q_Q1         N00237 N00286 N00450 KT3102 
Q_Q2         N00286 N00286 N00315 KT3102 
R_R1         N00375 N00450  450  
R_R2         N00375 N00315  210  
R_R3         N00286 N00237  9.3k  
V_V1         N00237 0 5Vdc
V_V2         0 N00375 5Vdc
