* source PR2
Q_Q1         N00365 N00450 N00509 KT3102 
V_V2         0 N00645 15Vdc
V_V6         N00828 N00479 DC 0Vdc AC 0.5Vac 
Q_Q2         N00394 N00479 N00509 KT3102 
Q_Q3         N00509 N00575 N00672 KT3102 
Q_Q4         N00575 N00575 N00645 KT3102 
R_R1         N00365 N00323  171k  
V_V7         N00811 0 0.01Vdc
R_R2         N00394 N00323  171k  
V_V8         N00828 0 0.03Vdc
R_R3         N00645 N00672  950  
R_R4         0 N00575  14.35k  
V_V5         N00450 N00811 DC 0Vdc AC 0.5Vac 
V_V1         N00323 0 15Vdc
