* source PR4
X_U2         N00897 N00222 N01008 N01137 N01182 UA741 
R_R1         0 N00222  30.303k  
R_R2         N00222 N01182  3000k  
R_R3         N00346 N00897  100k  
V_V1         0 N01137 15Vdc
V_V2         N01008 0 15Vdc
V_V5         N00346 0 DC 0Vdc AC 1Vac 
