* source SCHEMATA3
Q_VT1         N00551 0 N00763 KT307 
Q_VT2         N00522 N00709 N00763 KT307 
Q_VT3         N00829 N00829 N00917 KT3102 
C_C1         N00522 N00551  30p  
Q_VT4         N00763 N00829 N00917 KT3102 
V_V1         N00480 0 3.5Vdc
R_R1         N00522 N00551  560  
V_V2         0 N00917 5Vdc
R_R2         N00551 N00480  160  
R_R3         N00522 N00480  160  
R_R4         0 N00829  1.8k  
V_V3         N00709 0 DC 0Vdc AC 1Vac 
